US08975398B2
methyl 4-(1-(pyridazin-3-yl)azetidine-3-carboxamido)benzoate
The title compound was prepared as described in Example 1A, substituting methyl 4-aminobenzoate for tert-butyl 4-(4-aminophenoxy)piperidine-1-carboxylate and 1-(pyridazin-3-yl)azetidine-3-carboxylic acid for 1-(benzyloxycarbonyl)azetidine-3-carboxylic acid.

reactant | tert-butyl 4-(4-aminophenoxy)piperidine-1-carboxylate | NC1=CC=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C16H24N2O3
reactant | 1-(pyridazin-3-yl)azetidine-3-carboxylic acid | N1=NC(=CC=C1)N1CC(C1)C(=O)O | C8H9N3O2
reactant | 1-(benzyloxycarbonyl)azetidine-3-carboxylic acid | C(C1=CC=CC=C1)OC(=O)N1CC(C1)C(=O)O | C12H13NO4
product | methyl 4-(1-(pyridazin-3-yl)azetidine-3-carboxamido)benzoate | N1=NC(=CC=C1)N1CC(C1)C(=O)NC1=CC=C(C(=O)OC)C=C1 | C16H16N4O3
